US05166412
A solution of 2.5 g of (Z)-2-(3,3-dimethyl-1-cyclohexylidene)-1-ethanol [see, for example, A. Gutmann et al., J. Chem. Ecology 7, 919 (1981)] in THF (tetrahydrofuran) was added dropwise, under stirring and argon, to a mixture of LiAlH4 (2 g) and titanocene dichloride (Fluka, 4 spatula tips) in absolute THF at -40°. The reaction mixture was left under stirring at room temperature during the weekend. After washing with water (2 ml), 15% NaOH (2 ml) and again water (6 ml) to hydrolyze, and filtering, 1.9 g of (Z)-3-ethylidene-1,1-dimethylcyclohexane were obtained and used as such in the following step. A small quantity of this product was bulb-to-bulb distilled for analysis:

reactant | (Z)-2-(3,3-dimethyl-1-cyclohexylidene)-1-ethanol | 2.5 g | CC1(C\C(\CCC1)=C/CO)C | C10H18O
reactant | LiAlH4 | 2 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | O1CCCC1 | C4H8O
catalyst | titanocene dichloride | [Cl-].[Cl-].[CH-]1C=CC=C1.[CH-]1C=CC=C1.[Ti+2]
product | (Z)-3-ethylidene-1,1-dimethylcyclohexane | 1.9 g | C(/C)=C\1/CC(CCC1)(C)C | C10H18
